US07390835B2
Methyl ((3-(4-Chlorophenyl)-2(S)-(3-cyanophenyl)-1(S)-methyl-propyl)amino)(phenyl)acetate
A solution of 100 mg (0.35 mmol) of 3-(4-chlorophenyl)-2(S)-(3-cyanophenyl)-1(S)-methyl-propylamine in 2 mL of dichloroethane was treated with 53 mg (0.32 mmol) of phenylpyruvic acid and 112 mg (0.53 mmol) of sodium triacetoxyborohydride. After stirring for 3 hr the reaction was quenched with water and the layers were separated. The organic layer was dried and concentrated. The residue was diluted with 1 mL of CH2Cl2, 1 mL of methanol and 0.5 mL of 2 M (trimethylsilyl)diazomethane in hexane was added. After stirring for 1 hr, the solution was concentrated. The residue was purified on a prep TLC plate using 20% EtOAc/hexane to isolate the title product as a mixture of two diastereomers. LC-MS: m/e=433 (M+1), 3.15 min.

reactant | 3-(4-chlorophenyl)-2(S)-(3-cyanophenyl)-1(S)-methyl-propylamine | 0.35 mmol, 100 mg | ClC1=CC=C(C=C1)C[C@H]([C@H](C)N)C1=CC(=CC=C1)C#N | C17H17ClN2
reactant | phenylpyruvic acid | 0.32 mmol, 53 mg | C1(=CC=CC=C1)CC(C(=O)O)=O | C9H8O3
reactant | sodium triacetoxyborohydride | 0.53 mmol, 112 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | dichloroethane | 2 mL | ClC(C)Cl | C2H4Cl2
product | Methyl ((3-(4-Chlorophenyl)-2(S)-(3-cyanophenyl)-1(S)-methyl-propyl)amino)(phenyl)acetate | ClC1=CC=C(C=C1)C[C@H]([C@H](C)NC(C(=O)OC)C1=CC=CC=C1)C1=CC(=CC=C1)C#N | C26H25ClN2O2
